US09388161B2
Step 5. (S)-(5-cyclobutoxy-2-methyl-6-(5-(piperidin-4-yl)-1H-imidazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone
Hydrogen chloride (gas) was bubbled into a solution of tert-butyl 4-(2-((S)-5-cyclobutoxy-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)piperidine-1-carboxylate (0.094 g, 0.14 mmol) in dichloromethane (4 mL) and tetrahydrofuran (1 mL), and the resulting solution stirred for 1.5 h at room temperature. The reaction mixture was concentrated under vacuum, and the residue was dissolved in methanol (5 mL). The pH of the solution was adjusted to 8 with saturated aqueous sodium carbonate solution, and the resulting solution was extracted with ethyl acetate (3×10 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified by preparative-HPLC with the following conditions (Waters I): Column, SunFire Prep C18, 5 um, 19×100 mm; mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (55% to 75% acetonitrile in 7 min, flow rate: 20 mL/min); Detector, UV 220&254 nm. This afforded (S)-(5-cyclobutoxy-2-methyl-6-(5-(piperidin-4-yl)-1H-imidazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.0018 g, 3%) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm 0.71-0.78 (m, 1H), 0.82-0.99 (m, 2H), 1.13-1.18 (m, 4H), 1.21-1.41 (m, 5H), 1.55-1.65 (m, 1H), 1.75-2.21 (m, 9H), 2.32-2.48 (m, 2H), 2.89-3.11 (m, 4H), 3.31-3.34 (m, 1H), 4.16-4.21 (m, 1H), 4.70-4.81 (m, 1H), 6.97 (s, 1H), 7.26 (d, J=8.40 Hz, 1H), 7.65 (d, J=8.40 Hz, 1H). MS (ESI, pos. ion) m/z 435 [M+H]+.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-(2-((S)-5-cyclobutoxy-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)piperidine-1-carboxylate | 0.14 mmol, 0.094 g | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1N(C(=CN1)C1CCN(CC1)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C(=O)C1CC1)C | C37H56N4O5Si
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (S)-(5-cyclobutoxy-2-methyl-6-(5-(piperidin-4-yl)-1H-imidazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1NC(=CN1)C1CCNCC1)C(=O)C1CC1)C | C26H34N4O2
